US06608049B2
Analogously to the procedure of example II, starting from 3.00 g (11.66 mmol) of 5-benzyloxy-2-nitrobenzaldehyde in 60 ml of THF and 37.8 ml (18.66 mmol) of a 0.5 M 1-propenylmagnesium bromide solution in THF at −78° C., 1.95 g (56%) of 1-[5-(benzyloxy)-2-nitrophenyl]-2-buten-1-ol are obtained as an E/Z mixture.

reactant | 5-benzyloxy-2-nitrobenzaldehyde | 11.66 mmol, 3.00 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C14H11NO4
reactant | 1-propenylmagnesium bromide | 0.5 M | C(=CC)[Mg]Br
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-[5-(benzyloxy)-2-nitrophenyl]-2-buten-1-ol | 1.95 g, 56% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(C=CC)O)[N+](=O)[O-] | C17H17NO4
